US07074800B1
Using an analogous procedure to that described in Example 243, 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline (213 mg, 0.662 mmol), (prepared as described for the starting material in Example 9), was reacted with 6-fluoro-5-hydroxyindole (120 mg, 0.794 mmol), (prepared as described for the starting material in Example 242), in DMF (3 ml) containing potassium carbonate (137 mg, 0.993 mmol) to give 4-(6-fluoroindol-5-yloxy)-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline (154 mg, 53%).

reactant | 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline | 0.662 mmol, 213 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
reactant | 6-fluoro-5-hydroxyindole | 0.794 mmol, 120 mg | FC1=C(C=C2C=CNC2=C1)O | C8H6FNO
reactant | potassium carbonate | 0.993 mmol, 137 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-(6-fluoroindol-5-yloxy)-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline | 154 mg, 53% | FC1=C(C=C2C=CNC2=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C24H25FN4O3
